US05849928
A mixture of 2-methylthio-4-pentafluorosulphanylbenzonitrile (0.47 g) and sodium hydroxide (0.2 g) in a mixture of water and ethylene glycol (1:5) was heated at reflux for 5 hours. The cooled mixture was diluted (water), acidified (hydrochloric acid) and the solid filtered, washed (water) and dried to give 2-methylthio-4-pentafluorosulphanylbenzoic acid (0.38 g), m.p.150°-152° C.

reactant | 2-methylthio-4-pentafluorosulphanylbenzonitrile | 0.47 g | CSC1=C(C#N)C=CC(=C1)S(F)(F)(F)(F)F | C8H6F5NS2
reactant | sodium hydroxide | 0.2 g | [OH-].[Na+]
reactant | hydrochloric acid | Cl | ClH
reactant | water | O | H2O
solvent | ethylene glycol | C(CO)O | C2H6O2
product | 2-methylthio-4-pentafluorosulphanylbenzoic acid | 0.38 g | CSC1=C(C(=O)O)C=CC(=C1)S(F)(F)(F)(F)F | C8H7F5O2S2
